US04657848
A mixture of 224 g of reduced iron, 13.4 g of ammonium chloride, 1,000 ml of isopropyl alcohol, and 200 ml of water was prepared, and then 237 g of ethyl p-nitrobenzoylacetate was added thereto in small amounts at temperatures ranging between 50° and 70° C. They were reacted at 70° C. for 1 hour and then the reaction solution was filtered. Then, 1,000 ml of water was added to the filtrate and cooled to 5° C., and crystals precipitated were collected by filtration to yield 172 g of yellow ethyl p-aminobenzoylacetate crystals, m.p., 82°-4° C.

reactant | ammonium chloride | 13.4 g | [Cl-].[NH4+]
reactant | isopropyl alcohol | 1,000 ml | C(C)(C)O | C3H8O
reactant | ethyl p-nitrobenzoylacetate | 237 g | [N+](=O)([O-])C1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11NO5
solvent | water | 200 ml | O | H2O
product | ethyl p-aminobenzoylacetate | 172 g | NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H13NO3
